US07683004B2
This example demonstrates the synthesis and purification of the acylstannane complex Bu3SnC(O)Ph. In a nitrogen-filled glove box, a 250 mL three-neck round bottom flask was charged with diisopropylamine (1.31 g, 13.0 mmol) and 40 mL dry THF. The solution was cooled to about −30° C. and 2.5 M BuLi in hexane (5.2 mL, 13.0 mmol) was added slowly by syringe. The reaction mixture was allowed to warm to room temperature. A dropping funnel containing Bu3SnCH(OH)Ph (5.00 g, 12.6 mmol) dissolved in 20 mL dry THF, a nitrogen inlet, and a glass stopper were attached to the round bottom flask. The apparatus was removed from the glove box. The reaction setup was connected to a nitrogen-filled Schlenk line. The reaction mixture was cooled to about −78° C., and the Bu3SnCH(OH)Ph/THF solution was added dropwise. After the addition, the reaction mixture was allowed to stir for 15-20 min at −78° C., during which time the color changed from yellow to light orange. The glass stopper was then removed, and 1,1′-(azo dicarbonyl)dipiperidine (3.18 g, 12.6 mmol) was quickly added as a solid. The resulting reaction mixture was allowed to stir for 20-30 min at −78° C., during which time the reaction mixture turned dark orange. The reaction mixture was allowed to warm to about 0° C., and stirred for approximately 30 min at that temperature. The reaction was quenched at 0° C. by the addition of approximately 14 mL saturated ammonium chloride; solids formed in the reaction mixture. The reaction mixture was brought into a nitrogen-filled glove-box, filtered, dried (MgSO4), and concentrated to afford an orange oil. Chromatography on silica gel using 95/5 hexane/ethyl acetate as the eluent afforded 1.80 g of Bu3SnC(O)Ph as a yellow-orange oil. 1H NMR (C6D6) δ 7.9 (2H, d, Hortho), 7.3 (3H, mult, Hmeta & Hpara), 1.8-0.9 (27H, Bu's); 119Sn NMR (CDCl3) δ 87.4 relative to SnMe4; 13C NMR (CDCl3) δ 244.8 (CO), 142.9, 132.8, 128.8, 127.7 (Caromatic), 29.1, 27.3, 13.6, 11.5 (Cbutyl).

reactant | diisopropylamine | 13.0 mmol, 1.31 g | C(C)(C)NC(C)C | C6H15N
reactant | BuLi | 2.5 M | [Li]CCCC
reactant | hexane | 13.0 mmol, 5.2 mL | CCCCCC | C6H14
reactant | Bu3SnCH(OH)Ph | 12.6 mmol, 5.00 g | [Sn](CCCC)(CCCC)(CCCC)C(O)C1=CC=CC=C1
reactant | 1,1′-(azo dicarbonyl)dipiperidine | 12.6 mmol, 3.18 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | Bu3SnC(O)Ph | 1.80 g | [Sn](CCCC)(CCCC)(CCCC)C(=O)C1=CC=CC=C1 | InChI=1S/C7H5O.3C4H9.Sn/c8-6-7-4-2-1-3-5-7;3*1-3-4-2;/h1-5H;3*1,3-4H2,2H3;
